US06300353B1
A mixture of (3R)-2-(2,4,5-trifluorophenyl)-3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-1-(1H-1,2,4-triazol-1-yl)-2-butanol (740 mg) and pyridinium p-toluene sulfonate (PPTS, 200 mg) in ethanol (15 ml) was heated at 55° C. for 7 h. The reaction mixture was partitioned between ethyl acetate and water. The water layer was extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate, and concentrated to dryness in vacuo. Purification of the residue by silica gel chromatography, using dichloromethane:methanol (20:1) as an eluent, gave (2R,3R)-2-(2,4,5-trifluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol (361 mg, 63%) as white amorphous.

reactant | (3R)-2-(2,4,5-trifluorophenyl)-3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 740 mg | FC1=C(C=C(C(=C1)F)F)C(CN1N=CN=C1)([C@@H](C)OC1OCCCC1)O | C17H20F3N3O3
reactant | pyridinium p-toluene sulfonate | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (2R,3R)-2-(2,4,5-trifluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol | 361 mg, 63% | FC1=C(C=C(C(=C1)F)F)[C@@](CN1N=CN=C1)([C@@H](C)O)O | C12H12F3N3O2
